US08735426B2
Step 6: Synthesis of 2-phenyl-2-(3-fluoro-4-(methylsulfonamido)-phenyl)acetic acid
Ethyl 2-phenyl-2-(3-fluoro-4-(methylsulfonamido)-phenyl)acetate (16.5 mmol, 5.8 g) was dissolved in a mixture of 32 mL of THF and 16 mL of water, 1.18 g of LiOH (49.5 mmol) were added, and the mixture was heated under reflux over a period of 15 h. To the reaction mixture there were added 15 mL of water and the phases were separated. The aqueous phase was acidified with aq. HCl and extracted with dichloromethane (3×50 mL). The combined organic phases were dried over MgSO4, concentrated, and the residue purified by means of column chromatography (silica gel: 100-200 mesh, eluent: 50% EA in cyclohexane). Yield 3.3 g (61.3%).

reactant | Ethyl 2-phenyl-2-(3-fluoro-4-(methylsulfonamido)-phenyl)acetate | 16.5 mmol, 5.8 g | C1(=CC=CC=C1)C(C(=O)OCC)C1=CC(=C(C=C1)NS(=O)(=O)C)F | C17H18FNO4S
reactant | LiOH | 49.5 mmol, 1.18 g | [Li+].[OH-]
solvent | THF | 32 mL | C1CCOC1 | C4H8O
solvent | water | 16 mL | O | H2O
solvent | water | 15 mL | O | H2O
product | 2-phenyl-2-(3-fluoro-4-(methylsulfonamido)-phenyl)acetic acid | C1(=CC=CC=C1)C(C(=O)O)C1=CC(=C(C=C1)NS(=O)(=O)C)F | C15H14FNO4S
